US05936102
Preparation of 2-(2-bromo-1,1,2,2-tetrafluoroethoxy)-anisole
30.0 g of guaiacol, 70.0 g of 1,2-dibromotetrafluoroethane, 50.0 g of anhydrous potassium carbonate and 450 ml of dry DMSO were introduced into a stirred autoclave made of stainless steel. After the autoclave had been flushed with argon, it was sealed and subsequently heated to 100° C. After the reaction mixture had been stirred at this temperature for 24 hours, it was cooled to 20° C., poured into water and extracted with dichloromethane. The combined extracts were dried over magnesium sulfate. The dichloromethane was then evaporated in vacuo and the residue was distilled. 62.3 g of a mixture of 70 area % of 1-(2-bromo-1,1,2,2-tetrafluoroethoxy)-2-methoxybenzene (59.2% of theory) and 30 area % of 1-(1,1,2,2-tetrafluoroethoxy)-2-methoxybenzene (GC analysis) were obtained, distilling over at 80-95° C./14 mbar.

reactant | guaiacol | 30.0 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | 1,2-dibromotetrafluoroethane | 70.0 g | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | potassium carbonate | 50.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 450 ml | CS(=O)C | C2H6OS
product | 2-(2-bromo-1,1,2,2-tetrafluoroethoxy)-anisole | 62.3 g | BrC(C(OC1=C(C=CC=C1)OC)(F)F)(F)F | C9H7BrF4O2
